US06150379
A mixture of potassium nitrate (73.2 g, 0.718 mmol, 2 eq) and concentrated sulfuric acid (350 mL) was cooled to 0° C. and 2,4-difluorobenzonitrile was added in portions over 10 to 15 minutes. The mixture was stirred for 30 minutes and then poured onto ice to give a precipitate. The precipitate was isolated by filtration, washed with water and lyophilized to provide 2,4-difluoro-5-nitrobenzonitrile (50 g, 0.28 mol) as an off-white solid; PB-CI/MS: 185=(MH+); 1H-NMR (300 Mhz, DMSO-d6): 8.093(t, 1H), 8.982(t, 1H).

reactant | potassium nitrate | 0.718 mmol, 73.2 g, 2 eq | [N+](=O)([O-])[O-].[K+]
reactant | 2,4-difluorobenzonitrile | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
solvent | sulfuric acid | 350 mL | S(O)(O)(=O)=O | H2O4S
product | 2,4-difluoro-5-nitrobenzonitrile | 0.28 mol, 50 g | FC1=C(C#N)C=C(C(=C1)F)[N+](=O)[O-] | C7H2F2N2O2
